US07129238B2
(RS)-(2,6-Difluoro-4-methoxy-phenyl)-methoxy-acetic acid, described in example 66.1 was coupled with 4-aminomethyl-3-chlorobenzonitrile (CAS 202521-97-9) according to general procedure C to give (RS)-N-(2-chloro-4-cyano-benzyl)-2-(2,6-difluoro-4-methoxy-phenyl)-2-methoxy-acetamide. Light yellow oil. MS 379.2 ([M−H]−)

reactant | (RS)-(2,6-Difluoro-4-methoxy-phenyl)-methoxy-acetic acid | FC1=C(C(=CC(=C1)OC)F)C(C(=O)O)OC | C10H10F2O4
reactant | 4-aminomethyl-3-chlorobenzonitrile | NCC1=C(C=C(C#N)C=C1)Cl | C8H7ClN2
product | (RS)-N-(2-chloro-4-cyano-benzyl)-2-(2,6-difluoro-4-methoxy-phenyl)-2-methoxy-acetamide | ClC1=C(CNC(C(OC)C2=C(C=C(C=C2F)OC)F)=O)C=CC(=C1)C#N | C18H15ClF2N2O3
